US07893267B2
3.0 g (7.9 mmol) of 3-amino-5-benzyloxy-2-nitro-benzoic acid benzyl ester was reduced by 5.4 g (23.7 mmol) of SnCl22H2O in 30 mL of ethanol at 80° C. for 3 h to produce 2,3-diamino-5-benzyloxy-benzoic acid benzyl ester. LCMS: 350 (M+1)+.

reactant | 3-amino-5-benzyloxy-2-nitro-benzoic acid benzyl ester | 7.9 mmol, 3.0 g | C(C1=CC=CC=C1)OC(C1=C(C(=CC(=C1)OCC1=CC=CC=C1)N)[N+](=O)[O-])=O | C21H18N2O5
solvent | ethanol | 30 mL | C(C)O | C2H6O
product | 2,3-diamino-5-benzyloxy-benzoic acid benzyl ester | C(C1=CC=CC=C1)OC(C1=C(C(=CC(=C1)OCC1=CC=CC=C1)N)N)=O | C21H20N2O3
